US04602109
Part C: Preparation of 1-(2,6-Difluorobenzoyl)-3-(3,5-dichloro-4-[4-(4-chlorophenylsulfonyl)phenoxy]phenyl)urea
To a 250 mL flask equipped with stirrer, condenser, under nitrogen atmosphere was added 10 g (0.023 mol) of 4-(4-[4-chlorophenylsulfonyl]phenoxy)-3,5-dichloroaniline and 130 mL of toluene. The mixture was heated up to 80° to obtain a clear solution. A solution of 6.82 g of 2,6-difluorobenzoylisocyanate and 4 mL of toluene was added. The resulting mixture was stirred at 80° for 1.5 hours. The reaction mixture was cooled and filtered to give 14.2 g (0.023 mol) of a white solid; mp 207.2°-209.2° C.

reactant | 4-(4-[4-chlorophenylsulfonyl]phenoxy)-3,5-dichloroaniline | 0.023 mol, 10 g | ClC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(OC2=C(C=C(N)C=C2Cl)Cl)C=C1 | C18H12Cl3NO3S
reactant | 2,6-difluorobenzoylisocyanate | 6.82 g | FC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3F2NO2
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 130 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2,6-Difluorobenzoyl)-3-(3,5-dichloro-4-[4-(4-chlorophenylsulfonyl)phenoxy]phenyl)urea | 0.023 mol, 14.2 g | FC1=C(C(=O)NC(=O)NC2=CC(=C(C(=C2)Cl)OC2=CC=C(C=C2)S(=O)(=O)C2=CC=C(C=C2)Cl)Cl)C(=CC=C1)F | C26H15Cl3F2N2O5S
